US08044052B2
tert-Butyl 4-(3-(6-(trifluoromethyl)pyridin-3-yloxy)benzylidene)piperidine-1-carboxylate
A mixture of tert-butyl 4-(3-hydroxybenzylidene)piperidine-1-carboxylate (0.200 g), 5-bromo-2-(trifluoromethyl)pyridine (0.156 g, 1.00 equiv), cesium carbonate (0.450 g, 2.00 equiv), and tetrakis(acetonitrile)copper(I) hexafluorophosphate (0.019 g, 0.074 equiv) in toluene (3 mL, 0.2 M) was heated to reflux for 12 h. Additional catalyst (0.02 g) and 5-bromo-2-(trifluoromethyl)pyridine (0.200 g) was added and the mixture was refluxed for an additional 6 h. The reaction was allowed to cool to room temperature and filtered through Celite washing with ethyl acetate. Water was added and the mixture was extracted with ethyl acetate (2×). The combined organic extract was washed with brine, dried over magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography (10% ethyl acetate/dichloromethane) to give the title compound as a white solid (0.141 g, 47% yield). 1H NMR (400 MHz, CDCl3) δ ppm 1.47 (9H, s), 2.32 (2H, t, J=5.6 Hz), 2.44 (2H, t, J=5.6 Hz), 3.41 (2H, t, J=5.8 Hz), 3.50 (2H, t, J=5.8 Hz), 6.32 (1H, s), 6.87-6.96 (2H, m), 7.06 (1H, d, J=7.6 Hz), 7.32-7.39 (2H, m), 7.62 (1H, d, J=8.6 Hz), 8.46 (1H, d, J=2.7 Hz).

reactant | tert-butyl 4-(3-hydroxybenzylidene)piperidine-1-carboxylate | 0.200 g | OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C17H23NO3
reactant | 5-bromo-2-(trifluoromethyl)pyridine | 0.156 g, 1.00 equiv | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
reactant | cesium carbonate | 0.450 g, 2.00 equiv | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 5-bromo-2-(trifluoromethyl)pyridine | 0.200 g | BrC=1C=CC(=NC1)C(F)(F)F | C6H3BrF3N
solvent | toluene | 0.2 M, 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(acetonitrile)copper(I) hexafluorophosphate | 0.019 g, 0.074 equiv | CC#N.CC#N.CC#N.CC#N.F[P-](F)(F)(F)(F)F.[Cu+]
product | tert-Butyl 4-(3-(6-(trifluoromethyl)pyridin-3-yloxy)benzylidene)piperidine-1-carboxylate | 0.141 g, 47% yield | FC(C1=CC=C(C=N1)OC=1C=C(C=C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)(F)F | C23H25F3N2O3
